US07291632B2
Preparation 28. 1-Methyl-4-(N-(3-nitro-5-fluorophenyl)methylamino)piperidine
Combine 1,3-difluoro-5-nitro-benzene (1.78 mL, 15.7 mmol), 1-methyl-4-(methylamino)piperidine (2.74 mL, 18.85 mmol), sodium acetate (2.45 g, 29.8 mmol) and absolute ethanol (10 mL) in a sealed tube. Heat and stir at 100° C. for 16 hr. Cool the reaction mixture to ambient temperature and pour into water (100 mL). Extract with ethyl acetate (2×100 mL). Wash combined organic layers with saturated aqueous NaCl solution (100 mL), dry over sodium sulfate, filter, and concentrate. Purify residue by silica gel flash chromatography eluting with 10% (2M NH3 in methanol) in CH2Cl2 to obtain 0.06 g (1.4%)of the title intermediate: 1H NMR (CDCl3): 7.3 (m, 1H), 7.2 (m, 1H), 6.7 (m, 1H), 3.6 (m, 1H), 3.0 (m, 2H), 2.8 (s, 3H), 2.3 (s, 3H), 2.2 (m, 2H), 1.9 (m, 2H), 1.7 (m, 2H).

reactant | 1,3-difluoro-5-nitro-benzene | 15.7 mmol, 1.78 mL | FC1=CC(=CC(=C1)[N+](=O)[O-])F | C6H3F2NO2
reactant | 1-methyl-4-(methylamino)piperidine | 18.85 mmol, 2.74 mL | CN1CCC(CC1)NC | C7H16N2
reactant | sodium acetate | 29.8 mmol, 2.45 g | C(C)(=O)[O-].[Na+]
reactant | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 100 mL | O | H2O
product | 1-Methyl-4-(N-(3-nitro-5-fluorophenyl)methylamino)piperidine | 0.06 g, 1.4% | CN1CCC(CC1)NCC1=CC(=CC(=C1)F)[N+](=O)[O-] | C13H18FN3O2
